US06645711B2
170 ml of aqueous solution of 25% ammonia and 500 ml of acetonitrile were ice-cooled and stirred while maintaining the internal temperature at 5° C. or lower. 126 g (0.513 mol) of commercially available 2,5-dichlorobenzenesulfonyl chloride was added dividedly in five times over 1 hour. After completion of the addition, additional 30 minutes' reaction was performed, and then the reaction mixture was poured in a mixed solution of 100 ml of concentrated hydrochloric acid and 1,000 ml of ice water under stirring. The precipitated crystal was collected by filtration, and washed with water. By drying, 100 g of 2,5-dichlorobenzenesulfonamide was obtained as a white crystal (yield 88%).

reactant | ammonia | N | H3N
reactant | 2,5-dichlorobenzenesulfonyl chloride | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 2,5-dichlorobenzenesulfonamide | 100 g | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)N | C6H5Cl2NO2S
